data/oMe_Silver.jsonl
{"reaction_id": "NR-329_1-C#N_2-CC_3-c1ccc(C)cc1_4-C(F)(F)F","level": "medium","name": "Ramberg-Bäcklund Reaction","reactants_smiles": ["C([H])(C#N)(CC)S(=O)(=O)C(Cl)(c1ccc(C)cc1)C(F)(F)F"],"products_smiles": ["C(=C(c1ccc(C)cc1)C(F)(F)F)(C#N)CC"],"conditions": "Strong base (e.g., t-BuOK)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C#N)(CC)S(=O)(=O)C(Cl)(c1ccc(C)cc1)C(F)(F)F","step_weight": 0,"rationale": "t-BuOK deprotonates the acidic α-proton due to strong electron-withdrawing sulfone stabilization of the resulting carbanion via resonance and inductive effects."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C#N)(CC)S(=O)(=O)C1(c1ccc(C)cc1)C(F)(F)F","step_weight": 0,"rationale": "The nucleophilic carbanion attacks intramolecularly, displacing chloride, favored by good leaving group ability of Cl⁻ and proximity-driven cyclization."},{"step": 3,"type": "pericyclic","subtype": "cheletropic_reaction","intermediate_smiles": "C(=C(c1ccc(C)cc1)C(F)(F)F)(C#N)CC","step_weight": 0,"rationale": "The strained episulfone undergoes concerted SO₂ extrusion, driven by formation of a stable alkene and release of gaseous SO₂."}],"description": "Under strong base, the α-proton adjacent to the sulfone is abstracted to form a stabilized carbanion, which intramolecularly displaces chloride to form a strained episulfone. This intermediate undergoes a cheletropic elimination of SO₂, yielding the substituted alkene product."}
{"reaction_id": "NR-328_1-Cc1ccccc1_2-c1ccc(Cl)cc1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(Cc1ccccc1)c1ccc(Cl)cc1"],"products_smiles": ["N(Cc1ccccc1)(c1ccc(Cl)cc1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N(c1ccc(Cl)cc1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "Cc1ccccc1N(c1ccc(Cl)cc1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "Cc1ccccc1N(c1ccc(Cl)cc1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
